US20010021718A1
(3R)-6-Cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid
tert-Butyl (3R)-6-cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoate (Preparation 50) (410 mg, 1.08 mmol) was treated with trifluoroacetic acid (3 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 1 hour. The solvent was removed under reduced pressure and the residue azeotroped from toluene then dichloromethane to afford the title compound (250 mg).

reactant | tert-Butyl (3R)-6-cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 1.08 mmol, 410 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CCOC | C21H36N2O4
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (3R)-6-Cyclohexyl-3-[3-(2-methoxyethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 250 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CCOC | C17H28N2O4
